US04663159
3-chloro-2-hydroxypropyl dimethyldodecyl ammonium chloride;
3-chloro-2-hydroxypropyl dimethyloctadecyl ammonium chloride; 3-chloro-2-hydroxypropyldimethyloctyl ammonium chloride;

reactant | 3-chloro-2-hydroxypropyl dimethyloctadecyl ammonium chloride | [Cl-].ClC(CC[N+](C)(C)CC(C)O)CCCCCCCCCCCCCCC
reactant | 3-chloro-2-hydroxypropyldimethyloctyl ammonium chloride | [Cl-].ClC(CC[N+](C)(C)CC(C)O)CCCCC
product | 3-chloro-2-hydroxypropyl dimethyldodecyl ammonium chloride | [Cl-].ClC(CC[N+](C)(C)CC(C)O)CCCCCCCCC | InChI=1S/C17H37ClNO.ClH/c1-5-6-7-8-9-10-11-12-17(18)13-14-19(3,4)15-16(2)20;/h16-17,20H,5-15H2,1-4H3;1H/q+1;/p-1
